US05977105
(±)-α-(Phenylthiomethyl)-3-pyridinepropanol
Prepared according to the method described in Example 1a) from thiophenol (0.142 g), sodium hydride (0.062 g) and 3-(2-oxiranylethyl)pyridine (0.150 g) in dimethylformamide at room temperature to give the title compound as an oil (0.200 g).

reactant | thiophenol | 0.142 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 0.062 g | [H-].[Na+]
reactant | 3-(2-oxiranylethyl)pyridine | 0.150 g | O1C(C1)CCC=1C=NC=CC1 | C9H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (±)-α-(Phenylthiomethyl)-3-pyridinepropanol | 0.200 g | C1(=CC=CC=C1)SCC(CCC=1C=NC=CC1)O | C15H17NOS
